US07317012B2
13B. Preparation of 2-(4-(trifluoromethyl)benzyl)-6,7-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a suspension of 2-(4-(trifluoromethyl)benzyl)-6-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (150 mg, 0.34 mmol), 4-chlorophenylboronic acid (60 mg, 0.38 mmol), Na2CO3 (90 mg, 0.85 mmol) dissolved in water (0.2 mL) in toluene (3 mL) was added Pd(PPh3)4 (25 mg, 0.02 mmol). The resulting reaction mixture was bubbled with argon for 10 min before the flask was placed in an oil bath preheated at 125° C. After stirring at 125° C. for 10 h, the reaction was then allowed to cool to room temperature. To the reaction was added water (10 mL), the aqueous mixture extracted with EtOAc (10 mL×3). The combined EtOAc extracts were washed with water (10 mL×2), followed by saturated aqueous NaCl (10 mL×2) and concentrated under reduced pressure. The crude product was purified by reverse phase preparative HPLC (Conditions: Phenomenex Luna 5μ C18 21.2×100 mm; Eluted with 17% to 100% B, 25 min gradient, hold at 100% B for 5 min (A=90% H2O, 10% acetonitrile and B=10% H2O, 90% acetonitrile); Flow rate at 20 mL/min, UV detection at 220 nm) to obtain 22 mg (13%) the title compound as a yellow solid. LC/MS (Method C): retention time=4.26 min; (M+H)+=515. 1H NMR (CDCl3, 500 MHz): δ 7.61 (d,J=5.0 Hz, 2H), 7.56 (d,J=5.0 Hz, 2H), 7.41(s, 1H), 7.24-7.30 (m, 4H), 7.21 (d,J=5.0 Hz, 2H,), 7.01 (d,J=5.0 Hz, 2H), 5.29 (s, 2H).

reactant | 2-(4-(trifluoromethyl)benzyl)-6-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.34 mmol, 150 mg | FC(C1=CC=C(CN2N=C3N(N=C(C(=C3)C3=CC=C(C=C3)Cl)Cl)C2=O)C=C1)(F)F | C19H11Cl2F3N4O
reactant | 4-chlorophenylboronic acid | 0.38 mmol, 60 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 0.85 mmol, 90 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 0.2 mL | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.02 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-(trifluoromethyl)benzyl)-6,7-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 22 mg, 13% | FC(C1=CC=C(CN2N=C3N(N=C(C(=C3)C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C2=O)C=C1)(F)F | C25H15Cl2F3N4O
